US07566699B2
4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]thiophene
To a solution of 4-hydroxy-3-(2-phenylethyl)benzo-[b]thiophene (80 mg), 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose (0.17 g) in dichloromethane (3 mL) was added boron trifluoride-diethyl ether complex (0.044 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1-3/2) to give the title compound (75 mg).

reactant | 4-hydroxy-3-(2-phenylethyl)benzo-[b]thiophene | 80 mg | OC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C16H14OS
reactant | 2,3,4,6-tetra-O-acetyl-1-O-trichloroacetoimidoyl-α-D-glucopyranose | 0.17 g | C(C)(=O)O[C@H]1[C@@H](OC(C(Cl)(Cl)Cl)=N)O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O | C16H20Cl3NO10
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 4-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]thiophene | 75 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C30H32O10S
